US07777047B2
N-{[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methyl}-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.50 g), 1-[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methanamine (0.39 g), 1H-1,2,3-benzotriazol-1-ol (0.20 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.34 g), tetrahydrofuran (10 ml) and acetonitrile (3 ml) was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (NaSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (764 mg, yield 92%) as colorless crystals from a fraction eluted with ethyl acetate.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.50 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
reactant | 1-[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methanamine | 0.39 g | C(C1=CC=CC=C1)SC1(CCOCC1)CN | C13H19NOS
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.20 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.34 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-{[4-(benzylthio)tetrahydro-2H-pyran-4-yl]methyl}-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 764 mg, yield 92% | C(C1=CC=CC=C1)SC1(CCOCC1)CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C27H29N3O4S3
